* C:\home\ece2001\Designprojects\design2\dp2t2.asc
* Generated by LTspice 24.1.5 for Windows.
X§U1 0 NC_01 +v -v N014 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
M1 P001 N014 N003 N003 NMOS
M2 P002 N014 N003 N003 PMOS
V1 P002 0 5
V2 0 P001 5
R1 N003 0 8
X§U6 0 N005 P003 P004 N002 LM741
C1 N001 N005 110n
C2 N001 N002 110n
V3 0 P004 5
R6 N004 N001 5.1k
R7 N005 N002 10k
V5 N004 0 SINE(0 1 200) AC 1
X§U7 0 N015 P005 P006 N013 LM741
C3 N012 N015 22n
C4 N012 N013 22n
V6 0 P006 5
V7 P005 0 5
R8 N004 N012 5.1k
R9 N015 N013 10k
X§U8 0 N019 P007 P008 N018 LM741
C5 N017 N019 4.7n
C6 N017 N018 4.7n
V9 0 P008 5
V10 P007 0 5
R10 N004 N017 5.1k
R11 N019 N018 10k
V12 0 +v 10
V13 0 -v 10
V4 P003 0 5
R4 N020 N013 3.0k
R5 N020 N018 6.0k
X§U2 0 N011 P009 P010 N010 LM741
V8 0 P010 5
V11 P009 0 5
R2 N011 N009 4.7k
X§U3 0 N020 P011 P012 N006 LM741
V14 0 P012 5
V15 P011 0 5
R12 N020 N006 10k
R13 N011 N006 10k
R14 N020 N002 1.5k
R18 N010 N009 10k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\artjs\AppData\Local\LTspice\lib\cmp\standard.mos
.ac dec 1000 1 100000
* 1000Hz
* 5000Hz
* 200Hz
.lib C:\Users\Arturo\Documents\LTspice\lm741\lm741.lib
.lib UniversalOpAmp1.lib
.backanno
.end
